US07157447B2
N-(4-Fluoro-2-(2-oxoazepan-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2 carboxamide.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and 1-(2-(aminomethyl)-5-fluorophenyl)azepan-2-one, derived from reduction of intermediate 113, 4-fluoro-2-(2-oxoazepan-1-yl)benzonitrile. 1HNMR 400 MHz (DMSO) δ ppm: 8.80 (1H, dd, (t), J=6.0 Hz), 7.46 (2H, m), 7.36 (4H, m), 7.08 (1H, dd, J=9.8, 2.8 Hz), 7.0 (1H, m), 5.09 (2H, s), 4.43 (1H, dd, J=15.2, 7.1 Hz), 4.06 (1H, dd, J=15.2, 5.0 Hz), 4.02 (2H, t, J=5.0 Hz), 3.90 (2H, t, J=5.0 Hz), 3.77 (1H, m), 3.51 (1H, m), 2.70 (1H, m), 2.51 (2H, m), 1.76 (6H, m), 1.56 (6H, s). LCMS (M+H)+ m/z 549.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | 1-(2-(aminomethyl)-5-fluorophenyl)azepan-2-one | NCC1=C(C=C(C=C1)F)N1C(CCCCC1)=O | C13H17FN2O
product | N-(4-Fluoro-2-(2-oxoazepan-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2 carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)N1C(CCCCC1)=O | C30H33FN4O5
